Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I was feeling overwhelmed"
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Patient was brought to the ED initially by ___ campus police. 
Patient states that her boyfriend called the police that night 
after she made several concerning statements to him, including 
that "he would be better off without me" and "I don't want to be 
here anymore". Per ___ and patient, patient spoke with on-call 
clinician after campus police made contact with her. Police 
brought patient to the ED on a section 12a after she disclosed 
SI with plan to either jump off of a building or to overdose on 
medication.

Per emergency room evaluation by Dr. ___ on ___:

"Patient is a ___ y/o female ___ at
___ with no prior psychiatric history who is sent in on ___
after she disclosed SI with plan over past 24 hours and
psychiatry is consulted for safety evaluation.

Patient reports feeling depressed since ___ due to being
away from family (in ___) and boyfriend (___), not 
having
good supports at school and feeling overwhelmed with course 
work,
working part time and studying for the MCAT.  Over the past few
weeks she has been having  less energy and less motivation to
stay up on her coursework and is falling behind. She feels
stressed and has stopped social activities and isolating in her
room wanting to catch up but cannot. She states she hates ___ and
feels alone and over the last 24+ hours has been wishing she 
were
dead and thinking about killing herself and ways to do it.  She
states thinking of her family stopped her but states she went
from scale of doing it with 1 being lowest and 10 being actually
doing it to ___.  She describes her future as hopeless and
cannot see anything changing.  She denies AH, VH, paranoia, HI,
delusions, anxiety attacks, OCD, OTSD and any symptoms of 
mania."

On admission to the inpatient psychiatry unit, patient reported 
that she has been having feelings of low mood, difficulty 
concentrating, intermittent hopelessness, and "anxiety" for 
roughly the past three months. "It used to be that my bad days 
outnumbered my good days, but now it seems like almost all of 
the days are bad." She reported feeling exceptionally lonely at 
___, and stated that the environment there felt unfriendly and 
"cutthroat". She is a chemistry major taking a full course load 
and working part time in a laboratory. Academically, she reports 
she is doing well. However, she notes that she feels pervasively 
isolated from her peers and endorses ruminative thought 
processes surrounding her social life. In the weeks prior to 
presentation, patient states that she was feeling increasingly 
isolated and hopeless. The night of presentation, she was on the 
phone with her boyfriend when she made statements to him (as 
above) that made him concerned for her safety, and so he called 
the ___ police.

Patient endorsed feeling "anxiety" over the past few months, and 
describes this feeling as a "circular thought pattern" that she 
can not break. She states that she previously would ruminate 
about academics, but now the focus of her thoughts has shifted 
to her social life. She denies physical symptoms of anxiety, 
such as shortness of breath, rapid heart beat, sweating, nausea, 
or feelings of impending doom. Although she has some friends at 
school, she continues to feel perpetually uncomfortable at ___ 
and states that she does not feel she belongs there. Patient has 
considered transferring schools, but says that this would delay 
her graduation date. She denied difficulty falling or staying 
asleep and endorses ~7 hours of sleep each night. 

Patient denied thoughts of suicide. "I understand why my 
boyfriend was scared, and I know that he did it out of love, but 
I'm not suicidal and I don't want to kill myself...I want 
treatment but I don't feel that I need to be here." 

 
Past Medical History:
Patient denies significant past medical history.
 
Social History:
___
Family History:
No family history of suicide, substance use disorders, or mental 
illness of which patient is aware.
 
Physical Exam:
## VITAL SIGNS:

___ 1742 Temp: 98.6 PO BP: 132/82 HR: 81 RR: 18 O2 sat: 
100%

## EXAM:

General:
 -HEENT: Normocephalic, atraumatic.  Moist mucous membranes,
 oropharynx clear, supple neck.  No scleral icterus.
 -Cardiovascular: Regular rate and rhythm, S1/S2 heard, no
 murmurs/rubs/gallops. Distal pulses ___ throughout.
 -Pulmonary: No increased work of breathing.  Lungs clear to
 auscultation bilaterally.  No wheezes/rhonchi/rales.
 -Abdominal: Non-distended, bowel sounds normoactive.  No
 tenderness to palpation in all quadrants.  No guarding, no
 rebound tenderness.
 -Extremities: Warm and well-perfused.  No edema of the limbs.
 -Skin: No rashes or lesions noted.

Neurological:
 -Cranial Nerves:
 ---I: Olfaction not tested.
 ---II: PERRL 3 to 2mm, both directly and consentually; brisk
 bilaterally.  VFF to confrontation.
 ---III, IV, VI: EOMI without nystagmus
 ---V: Facial sensation intact to light touch in all
distributions
 ---VII: No facial droop, facial musculature symmetric and ___
 strength in upper and lower distributions, bilaterally
 ---VIII: Hearing intact to finger rub bilaterally
 ---IX, X: Palate elevates symmetrically
 ---XI: ___ strength in trapezii and SCM bilaterally
 ---XII: Tongue protrudes in midline
 -Motor: Normal bulk and tone bilaterally. No abnormal 
movements,
 no tremor. Strength ___ throughout.
 -Sensory: No deficits to fine touch throughout
 -DTRs: 2 and symmetrical throughout
 Coordination: Normal on finger to nose test, no intention 
tremor
 noted
 -Gait: Good initiation.  Narrow-based, normal stride and arm
 swing.  

 
Pertinent Results:
___ 02:15PM BLOOD ASA: NEG Ethanol: NEG Acetmnp: NEG
Tricycl: NEG 

___ 05:43PM URINE bnzodzp: NEG barbitr: NEG opiates: NEG
cocaine: NEG amphetm: NEG oxycodn: NEG mthdone: NEG 

A basic metabolic panel and complete blood count were performed 
in the ED and were within normal limits.
 
Brief Hospital Course:
1. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission. She was also placed on 15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted. Patient 
signed a 3-day notice of intent to leave the night of her 
admission ___.

2. PSYCHIATRIC:
Patient reported multiple depressive symptoms in the weeks prior 
to admission, including low mood, hopelessness, thoughts of 
death or suicide, and difficulty concentrating. She also 
endorsed persistent ruminative thoughts and "circular" thinking 
which was distressing for her. This occurred in the setting on 
long-term academic pressures and feelings of social isolation. 
Her presentation was most concerning for a major depressive 
episode. On admission, patient denied suicidal ideation and 
denied feelings of hopelessness. She continued to experience low 
mood and ongoing ruminative thoughts related to school and her 
social life. She was able to sleep and she reported normal 
appetite. She stated that she would like to engage in therapy 
after discharge. She reported ambivalence to starting treatment 
with an antidepressant medication. After discussion of the 
risks, benefits, and trajectory of such treatment, she agreed to 
start a trial of sertraline at a low dose. Stared on Zoloft 25 
mg daily, however experienced nausea and had one episode of 
vomiting, the dose was reduced to 12.5 mg daily, which pt was 
able to tolerate well. She will cont taking 12.5 mg daily at 
home and will increase the dose to 25 mg after 3 days. 
Gradually patient's mood improved, her appetite and sleep 
pattern normalized. 

3. SUBSTANCE USE DISORDERS:
On admission, patient denied history of tobacco, marijuana, or 
other illicit drug use. She reported drinking up to 6 drinks at 
a time on the weekends, in social settings. She denied history 
of blackouts or impairment at school. Patient stated that she 
did not feel her alcohol use was problematic for her health. 
Counseled patient on the importance of reducing or eliminating 
alcohol use, particularly in the setting of major depressive 
disorder with suicidal thoughts. 

4. MEDICAL
Patient was medically evaluated in the emergency room, cleared 
for admission to inpatient psychiatry, and exhibited no acute 
medical problems during her hospital course. 

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient participated in the various groups and milieu 
therapy opportunities offered by the unit. She did well, made 
meaningful contributions and remained active while in groups. 

#) COLLATERAL INFORMATION AND  FAMILY INVOLVEMENT
Patient's father ___ (___) was present 
with the patient in the ED and was involved with her ongoing 
care. Held meeting with the patient, SW, and patient's father no 
the inpatient psychiatry unit the morning of ___. Father 
reported that the patient had never, to his knowledge, 
experienced mood symptoms this severe before. He reported that 
he was considering moving from ___ to ___ (he is 
able to perform his profession from a distance) in order to be 
near the patient and provide her with support. Discussed 
inpatient treatment and planning for discharge, and we answered 
father's questions regarding the above.

#) INTERVENTIONS
- Medications: Sertraline 25mg PO daily.
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: as per d/c plan

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting Zoloft and risks and benefits of possible alternatives, 
including not taking the medication, with this patient.   We 
discussed the patient's right to decide whether to take this 
medication as well as the importance of the patient's actively 
participating in the treatment and discussing any questions 
about medications with the treatment team. The patient appeared 
able to understand and consented to taking the medication.

RISK ASSESSMENT & PROGNOSIS

On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself based upon her report of 
suicidal ideation with multiple plans. Her static factors noted 
at that time included age and single marital status. The 
modifiable risk factors included suicidal ideation with a plan, 
hopelessness, social withdrawal, and ongoing substance use. 
These risk factors were addressed during the ___ hospital 
admission with pharmacologic intervention, individual therapy, 
group work, and individual counseling for the cessation of 
alcohol. Finally, the patient is being discharged with many 
protective factors, including help-seeking behavior, 
future-oriented thinking, reality testing ability, lack of 
suicidal ideation, strong family support, and engagement with 
outpatient treatment plan. Overall, the patient is not at an 
acutely elevated risk of self-harm nor is she a danger to others 
due to an acutely decompensated psychiatric illness. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Nortrel ___ (28) (norethindrone-ethin estradiol) ___ 
mg-mcg oral DAILY  
2.  Sertraline 12.5 mg PO DAILY 
RX *sertraline 25 mg 1 tablet(s) by mouth daily Disp #*14 Tablet 
Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major Depressive Disorder - recurrent, severe with no psychotic 
features vs Adjustment Disorder with Mixed Emotional Features

Anxiety nos

 
Discharge Condition:
Mental Status: Clear and coherent. 
Level of Consciousness: Alert and interactive. 
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___